US07985755B2
5-(4-Naphthalen-2-ylmethyl-piperazin-1-yl)-quinazoline-2,4-diamine hydrochloride
In a 20 mL vial with stir bar, triethylamine (40 mg; 0.4 mmol) was added to a mixture of 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-(bromomethyl)naphthalene (59 mg; 0.26 mmol) in N,N-dimethylformamide and heated to 60° C. for 72 hours. Mixture was quenched with 1 mL of 1N NaOH and after 1.5 hours solids were collected by filtration and triturated with ethanol. Solids were stirred at room temperature with 4M HCl in Dioxane (2 eq). Solids were collected and dried to 60 mg of title compound. (71% yield). 1H NMR (500 MHz, DMSO-d6) δ 12.8 (s, 1H), 11.7 (s, 1H), 9.38 (s, 1H), 9.07 (s, 1H), 8.16 (s, 1H), 8.00 (m, 3H), 7.85 (dd, J=8.5, 1.0 Hz, 1H), 7.75 (t, J=8.0 Hz, 1H), 7.61 (m, 2H), 7.27 (d, J=8.5 Hz, 1H), 7.18 (d, J=8.5 Hz, 1H), 4.54 (s, 2H), 3.58 (m, 2H), 3.43 (d, J=11.5 Hz, 2H), 3.32 (t, J=12.0 Hz, 2H), 3.25 (d, J=12.0 Hz, 2H). ESIMS+385.8 m/z

reactant | triethylamine | 0.4 mmol, 40 mg | C(C)N(CC)CC | C6H15N
reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-(bromomethyl)naphthalene | 0.26 mmol, 59 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | HCl | 4M | Cl | ClH
reactant | Dioxane | 2 eq | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-Naphthalen-2-ylmethyl-piperazin-1-yl)-quinazoline-2,4-diamine hydrochloride | 71% yield | Cl.C1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | InChI=1S/C23H24N6.ClH/c24-22-21-19(26-23(25)27-22)6-3-7-20(21)29-12-10-28(11-13-29)15-16-8-9-17-4-1-2-5-18(17)14-16;/h1-9,14H,10-13,15H2,(H4,24,25,26,27);1H
